US08609698B2
2-Hydrazinoisonicotinonitrile
20.0 g (144 mmol) of 2-chloroisonicotinonitrile are initially charged in 150 ml of 1-butanol, 303 ml (303 mmol) of a 1 M solution of hydrazine hydrate in THF are added and the mixture is heated for 16 h (bath temperature 110° C.). The mixture is concentrated and the residue is purified by flash chromatography on silica gel (mobile phase: dichloromethane/methanol 10:1).

reactant | 2-chloroisonicotinonitrile | 144 mmol, 20.0 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | hydrazine hydrate | O.NN
solvent | 1-butanol | 150 ml | C(CCC)O | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 2-Hydrazinoisonicotinonitrile | N(N)C=1C=C(C#N)C=CN1 | C6H6N4
